US04990536
(ii) 15-Guanidino-1,7-dihydroxy-5,8-diazapentadecane-6,9-dione hydrochloride:
0.65 g (1.42 mmol) of 7-benzyloxy-15-guanidino-1-hydroxy-5,8-diazapentadecane-6,9-dione hydrochloride was dissolved in 20 ml of 1N acetic acid and catalytically reduced in the presence of 0.2 g of palladium black under a hydrogen pressure of 10 kg/cm2 at room temperature for 36 hours. After filtering off the catalyst, the filtrate was adsorbed on 100 ml of CM-Sephadex® C-25 (Na) and subjected to gradient elution between 500 ml of distilled water and 500 ml of 0.3M sodium chloride. Fractions containing the aimed product were combined and concentrated to dryness under reduced pressure. 90% ethanol was added to the residue and the insoluble sodium chloride was filtered off. The filtrate was then passed through a column packed with 100 ml of Sephadex® LH-20 and eluted with 90% ethanol. Fractions containing the aimed compound were combined and concentrated to dryness under reduced pressure. The residue was dissolved in a small amount of distilled water and the insoluble matters were filtered off. The obtained aqueous solution was lyophilized to thereby give 0.497 g of the aimed compound (yield: 95.1%).

reactant | 7-benzyloxy-15-guanidino-1-hydroxy-5,8-diazapentadecane-6,9-dione hydrochloride | 1.42 mmol, 0.65 g | Cl.C(C1=CC=CC=C1)OC(C(NCCCCO)=O)NC(CCCCCCNC(=N)N)=O
solvent | acetic acid | 1N, 20 ml | C(C)(=O)O | C2H4O2
catalyst | palladium black | 0.2 g | [Pd] | Pd
product | 15-Guanidino-1,7-dihydroxy-5,8-diazapentadecane-6,9-dione hydrochloride | 0.497 g, yield: 95.1% | Cl.N(C(=N)N)CCCCCCC(NC(C(NCCCCO)=O)O)=O | InChI=1S/C14H29N5O4.ClH/c15-14(16)18-9-4-2-1-3-7-11(21)19-13(23)12(22)17-8-5-6-10-20;/h13,20,23H,1-10H2,(H,17,22)(H,19,21)(H4,15,16,18);1H
